US03963783
A solution containing 600 ml. of absolute ether and 640 g. (1.5 moles) of butyl lithium in the form of a 15% solution in hexane was cooled to -10°. In the course of one hour, a solution of 128 g. of diisopropylamine (1.265 moles) in 600 ml. of absolute ether was added with stirring and under nitrogen, then the temperature was allowed to rise to 0°, and stirring was continued for an additional 1/2 hour. The solution was again cooled to -10° and a solution containing 208 g. of propylidene-cyclohexylimine (1.5 moles, b.p. 56°-58°/15 Torr) in 600 ml. of ether was added dropwise over a period of one hour. The mixture was stirred for one hour at 0°, then cooled to -65°, there was then added thereto, within a period of 1/2 hour, 225 g. of 4-methyl-8-vinyl-4,8-nonadienal (1.265 moles) dissolved in 600 ml. of ether, while maintaining the temperature between -66° and -62°. The temperature was allowed to come back to 25° in the course of one hour. The reaction mixture was then poured into 8.1 of water at 0° that contained 600 g. of oxalic acid, under stirring. The organic layer was separated and the aqueous phase extracted twice with ether ( 2 1.). The extracts were washed with aqueous 5% bicarbonate and with water. After drying and evaporation a yield of 70% of crude β-sinensal was obtained. B.p. 100°-111°/0.04 Torr. An analytical sample was prepared by chromatography on silica with a 3% solution of ethyl acetate in hexane (v/v) as the eluent; b.p. 88°-89°/0.02 Torr. Spectral measurements; IR (CHCl3): 3090, 2710, 1800, 1680, 1640, 1590, 995, 905 cm-1, UV (EtOH): 2260 A (ε= 34,000). NMR (CCl4): 9.33 ppm (1 H, s), 6.37 ppm (1 H, t, J = 6 cps), 6.30 ppm (1 H, d of d, J = 17 and 10 cps), 4.8 - 5.4 ppm (5 H, m), 1.9 - 2.6 ppm (8 H, m), 1.69 ppm (3 H, s broad), 1.61 ppm (3 H, s broad).

reactant | butyl lithium | 1.5 moles | C(CCC)[Li]
reactant | diisopropylamine | 1.265 moles | C(C)(C)NC(C)C | C6H15N
reactant | 4-methyl-8-vinyl-4,8-nonadienal | 1.265 moles | CC(CCC=O)=CCCC(=C)C=C | C12H18O
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | β-sinensal | yield of 70% | C/C(=C\CCC(=C)C=C)/CC/C=C(\C)/C=O | C15H22O
